US04994465
Preparation of N'-[2,6-bis(1-methylethyl)phenyl]-N-heptyl-N-[(1phenylcyclopentyl)methyl]urea
1-Phenylcyclopentyl-N-heptylmethylamine (5.46 g; 0.02M) was dissolved in 75 mL of ethyl acetate. To this solution was added, with stirring, a solution of 2,6-diisopropyl phenyl isocyanate (4.06 g; 0.02M) in 25 mL of ethyl acetate. The reaction mixture was stirred at room temperature overnight, concentrated to dryness, and the resulting white solid was chromatographed on silica using hexane:ethyl acetate (8:2) as the eluant to yield 5.2 g of the title compound, mp 95-97° C.

reactant | 1-Phenylcyclopentyl-N-heptylmethylamine | 0.02M, 5.46 g | C1(=CC=CC=C1)C1(CCCC1)N(CCCCCCC)C | C19H31N
reactant | 2,6-diisopropyl phenyl isocyanate | 0.02M, 4.06 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | N'-[2,6-bis(1-methylethyl)phenyl]-N-heptyl-N-[(1phenylcyclopentyl)methyl]urea | 5.2 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1(CCCC1)C1=CC=CC=C1)CCCCCCC)=O | C32H48N2O
